US05629321
In 10 ml of N,N-dimethylformamide, 0.67 g of ethyl 7-[N-(t-butoxycarbonyl)amino]-1,2,3,4-tetrahydro-naphthalene-2-acetate was dissolved and 0.096 g of 60% sodium hydride was added under cooling and stirred for 5 minutes at room temperature. To the mixture, 0.57 g of methyl iodide was dropwise added and allowed to stand overnight at room temperature. The reaction mixture was concentrated under reduced pressure and the concentrated residue was extracted with ethyl acetate. The ethyl acetate solution was dried with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, then the obtained crude product was purified by silica gel column chromatography using a mixture, ethyl acetate:n-hexane=1:10, as a developer to give 0.67 g of ethyl 7-[N-(t-butoxycarbonyl)-N-methylamino]-1,2,3,4-tetrahydronaphthalene-2-acetate.

reactant | ethyl 7-[N-(t-butoxycarbonyl)amino]-1,2,3,4-tetrahydro-naphthalene-2-acetate | 0.67 g | C(C)(C)(C)OC(=O)NC1=CC=C2CCC(CC2=C1)CC(=O)OCC | C19H27NO4
reactant | sodium hydride | 0.096 g | [H-].[Na+]
reactant | methyl iodide | 0.57 g | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 7-[N-(t-butoxycarbonyl)-N-methylamino]-1,2,3,4-tetrahydronaphthalene-2-acetate | 0.67 g | C(C)(C)(C)OC(=O)N(C)C1=CC=C2CCC(CC2=C1)CC(=O)OCC | C20H29NO4
